US06495576B2
3-(2-Chloro-pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione
A solution of 2-chloro-3-aminopyridine and 3,4-diethoxy-3-cyclobutene-1,2-dione in ethanol was processed as described in Example 1A to provide the title compound.

reactant | 2-chloro-3-aminopyridine | ClC1=NC=CC=C1N | C5H5ClN2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | C(C)O | C2H6O
product | 3-(2-Chloro-pyridin-3-ylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | ClC1=NC=CC=C1NC=1C(C(C1OCC)=O)=O | C11H9ClN2O3
